US07834051B2
4-[(2S,3S)-3-(tert-butyldimethylsilyloxy)-2-methyl-5-oxopyrrolidin-1-yl]-2-fluoro-3-methylbenzonitrile
To a solution of 4-bromo-2-fluoro-3-methylbenzonitrile (1.10 g), (4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methylpyrrolidin-2-one (1.18 g), cesium carbonate (2.51 g), tris(dibenzylideneacetone)dipalladium(0) (235 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (297 mg) in dioxane (30 mL) was stirred under an argon atmosphere at 80° C. for 8 hr. 5 The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound as a colorless solid (yield: 347 mg, 19%).

reactant | 4-bromo-2-fluoro-3-methylbenzonitrile | 1.10 g | BrC1=C(C(=C(C#N)C=C1)F)C | C8H5BrFN
reactant | (4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methylpyrrolidin-2-one | 1.18 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(N[C@H]1C)=O | C11H23NO2Si
reactant | cesium carbonate | 2.51 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 297 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 235 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | 4-[(2S,3S)-3-(tert-butyldimethylsilyloxy)-2-methyl-5-oxopyrrolidin-1-yl]-2-fluoro-3-methylbenzonitrile | yield: 347 mg, 19% | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](N(C(C1)=O)C1=C(C(=C(C#N)C=C1)F)C)C | C19H27FN2O2Si
